US06008243
According to the procedure described in Example 8(a), 2(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-succinic acid 4-benzyl ester (1.20 g, 2.82 mmol) and L-α-amino-ε-caprolactam (469 mg, 3.67 mmol) was coupled in DMF with pyBOP to furnish 1.02 g (67%) of 3(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-N-(hexahydroazepin-2-on-3(S)-yl)succinamic acid benzyl ester. FABMS: 537.5 (C32H33N4O4 ; M+H+).

reactant | 2(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-succinic acid 4-benzyl ester | 2.82 mmol, 1.20 g | C(C1=CC=CC=C1)OC(CC(C(=O)O)N1CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H24N2O4
reactant | L-α-amino-ε-caprolactam | 3.67 mmol, 469 mg | C1CCNC(=O)[C@H](C1)N | C6H12N2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-N-(hexahydroazepin-2-on-3(S)-yl)succinamic acid benzyl ester | 1.02 g, 67% | C(C1=CC=CC=C1)OC(CC(C(=O)N[C@@H]1C(NCCCC1)=O)N1CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C32H34N4O4
